US08071588B2
A mixture of 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid (600 mg, 1.444 mmol), HBTU (657 mg, 1.733 mmol), Et3N (1006 μL, 7.22 mmol) and {[3-bromo-4-(methyloxy)phenyl]-methyl}amine (343 mg, 1.589 mmol) in DCM was stirred at room temperature overnight. The reaction mixture was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give the crude residue. It was then purified with a Gilson HPLC (acidic conditions: 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and washed with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were dried over sodium sulfate, filtered and then concentrated under vacuum to give N1-{[3-bromo-4-(methyloxy)phenyl]methyl}-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide (100 mg, 11.29%). LC-MS m/z 613 M+, 0.83 min (ret time).

reactant | 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid | 1.444 mmol, 600 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)O)CC | C21H29N5O4
reactant | HBTU | 1.733 mmol, 657 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 7.22 mmol, 1006 μL | CCN(CC)CC | C6H15N
reactant | {[3-bromo-4-(methyloxy)phenyl]-methyl}amine | 1.589 mmol, 343 mg | BrC=1C=C(C=CC1OC)CN | C8H10BrNO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N1-{[3-bromo-4-(methyloxy)phenyl]methyl}-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide | 100 mg, 11.29% | BrC=1C=C(C=CC1OC)CN(C(=O)C1(CC1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C29H37BrN6O4
